US05098462
A mixture of ethyl 4-chloro-2-(1-bromoethyl)nicotinate (7.45 g) and sodium bicarbonate (4.00 g) in 50 ml of DMSO is heated at 120°, under nitrogen, for 2 hours, after which it is cooled, diluted with water, filtered and extracted with ether. The combined organic layers are washed with water and concentrated. The residue is taken into ethyl acetate, washed with brine, dried, concentrated and purified by flash chromatography to give 4-chloro-7-methylfuro-[3,4-b]-pyridin-5-(7H)-one, which is then reacted with N-bromosuccinimide and 2,2'-azobis(2-methylpropionitrile), as above, to give 7-bromo-4-chloro-7-methylfuro-[3,4-b]-pyridin-5-(7H)-one.

reactant | ethyl 4-chloro-2-(1-bromoethyl)nicotinate | 7.45 g | ClC1=CC=NC(=C1C(=O)OCC)C(C)Br | C10H11BrClNO2
reactant | sodium bicarbonate | 4.00 g | C([O-])(O)=O.[Na+]
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-chloro-7-methylfuro-[3,4-b]-pyridin-5-(7H)-one | ClC1=C2C(=NC=C1)C(OC2=O)C | C8H6ClNO2
